US08710000B2
15-Aminopentadecanoic acid tert-butyl ester was prepared in analogous fashion to 17-aminoheptadecanoic acid tert-butyl ester, and was coupled to (tert-butoxycarbonylmethoxycarbonylmethylamino) acetic acid in analogous fashion to the method described in Example 1, step 4.

reactant | 17-aminoheptadecanoic acid tert-butyl ester | C(C)(C)(C)OC(CCCCCCCCCCCCCCCCN)=O | C21H43NO2
reactant | (tert-butoxycarbonylmethoxycarbonylmethylamino) acetic acid | C(C)(C)(C)OC(=O)COC(=O)CNCC(=O)O | C10H17NO6
product | 15-Aminopentadecanoic acid tert-butyl ester | C(C)(C)(C)OC(CCCCCCCCCCCCCCN)=O | C19H39NO2
